US07601744B2
A reaction flask (500 mL) containing zinc chloride (6.98 g, 51.2 mmol) was dried by heating using a heat gun under vacuum. After cooling to room temperature, a solution of 3-chloro-5-fluorophenylmagnesium bromide (0.5 M in dry tetrahydrofuran, 100 mL, 50.0 mmol) was added to the reaction flask via a cannula, and the mixture was stirred until all zinc chloride solid was dissolved and the formation of a sluggish bright yellow solution (˜1 h). A warm bath (40° C) may be applied to complete this process. Anhydrous tetrahydrofuran (100 mL) was added, followed by tetrakis(triphenylphosphine)palladium (2.89 g, 2.50 mmol, 0.05 equiv.). After cooling to 0° C., 3-chloropropionyl chloride (5.05 mL, 52.5 mmol, 1.05 equiv.) was added dropwise and the mixture was stirred at 0° C. for 2 hours. The reaction mixture was acidified with an aqueous hydrochloric acid solution (3 N), then extracted with diethyl ether (2×250 mL). The combined ether extracts were washed with a saturated aqueous sodium bicarbonate solution, brine, dried (anhydrous sodium sulfate), and concentrated. The crude oil was purified by Isco CombiFlash Companion column chromatography (silica gel, 0-15% ethyl acetate/hexane) and the resulting white solid was recrystallized (minimal diethyl ether/hexane/−25° C.) to give pure 3-chloro-1-(3-chloro-5-fluorophenyl)propan-1-one as a white powder (5.54 g, 50%).

reactant | 3-chloro-5-fluorophenylmagnesium bromide | 50.0 mmol, 0.5 M, 100 mL | ClC=1C=C(C=C(C1)F)[Mg]Br
reactant | 3-chloropropionyl chloride | 52.5 mmol, 5.05 mL, 1.05 equiv. | ClCCC(=O)Cl | C3H4Cl2O
reactant | hydrochloric acid | 3 N | Cl | ClH
catalyst | zinc chloride | 51.2 mmol, 6.98 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 2.50 mmol, 2.89 g, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-chloro-1-(3-chloro-5-fluorophenyl)propan-1-one | 5.54 g, 50% | ClCCC(=O)C1=CC(=CC(=C1)F)Cl | C9H7Cl2FO
